US05455260
Aluminum chloride (0.2 g; 1.5 mmol) is added to a suspension of lithium aluminum hydride (60 mg; 1.5 mmol) in dry ether (6 ml) at 0° C. The reaction is stirred for 10 minutes at 20° C. and cooled to 0° C. A solution of 4-(benzoxazol-2-yl)benzyl cyanide (0.24 g; 1.02 mmol) in dry THF (4 ml) is added dropwise and the reaction is stirred at 20° C. for 2 hours. The reaction is quenched with H2O, diluted with ether and washed vigorously with 2N HCl. The ether is decanted and the aqueous layer is washed with ether. The aqueous phase is neutralized with 15% NaOH and extracted with CH2Cl2. The extracts are concentrated and purified with column chromatography using CH2Cl2 to 20% MeOH/CH2Cl2. The product is acidified with acidic methanol and concentrated to yield 2-[4-(benzoxazol-2-yl)phenyl]- 1-ethanamine hydrochloride (m.p. 250° C. dec.).

reactant | Aluminum chloride | 1.5 mmol, 0.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 1.5 mmol, 60 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(benzoxazol-2-yl)benzyl cyanide | 1.02 mmol, 0.24 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CC#N)C=C2 | C15H10N2O
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-[4-(benzoxazol-2-yl)phenyl]- 1-ethanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CCN | InChI=1S/C15H14N2O.ClH/c16-10-9-11-5-7-12(8-6-11)15-17-13-3-1-2-4-14(13)18-15;/h1-8H,9-10,16H2;1H
